Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
vancomycin
 
Attending: ___
 
Chief Complaint:
DKA, Transfer from outside hospital
 
Major Surgical or Invasive Procedure:
___: Right midline catheter placed
 
History of Present Illness:
Ms. ___ is a ___ year old woman with history of DM1 w/ 
numerous DKA admissions (most recently ___, necrobiosis 
lipoidica diabeticorum, and hypothyroidism, who presents from 
OSH ED as transfer for DKA. 

Patient with recent bilateral ___ ulcer superinfection that was 
treated with an oral course of clindamycin (___ompleted on ___. She was in her usual state of health with 
usual FSGs (high 100s to low 200s) until night prior to 
admission when she noticed new throbbing pain in RLE wound site 
while at work.  She left work early due to pain and checked her 
glucose at home (200s) and then went to sleep. Awoke in AM with 
n/v, sugars in the 300s and so presented to ___. At 
___ she was found to have sugars up to 700s, bicarb of 15, 
AG of 15, and positive urine ketones. Bolused 1L and started on 
insulin drip at 6U/hr. Sugars quickly normalized to 200s and 
drip was stopped before transfer. Unclear why drip was stopped.  
She was transferred to ___ per patient request.

In the ED, she continued to have RLE pain, also reporting chest 
pain and some SOB. Tachy to 120s. FSG 241 on arrival, but not on 
insulin.

Of note patient admitted to ICU at ___ ___ for DKA. She 
was treated with IV insulin gtt, transitioned to her home 
regimen without issues, and ___ was consulted. Hospital 
course was complicated by necrobiosis lipoidia diabeticorum with 
superinfection of ulceration, which was treated with a 10 day 
course of clindamycin. She also had chest pain during admission, 
reproducible on exam consistent with costochontritis and her 
chest pain improved with magic mouthwash. 

In the ED, initial vitals:  
97.4 120 114/75 20 96% RA 
 
- Exam notable for tearful woman, tearful at times. Reproducible 
sternal pain to palpation. Bilateral wounds overlying tibias. 
Right shin is warmer with more edema. Surrounding erythema 
bilaterally.

- Labs were notable for:  normal CBC, MCV 109, Na 131, Bicarb 
12, K 5.5, glucose 343 pH 7.22, UA with ketones, few bacteria, 
neg Leuks and nitrites, lactate 3.1

- Imaging: no imaging performed

- Patient was given: 
3L NS
ASA 325mg
IV clinda, cipro, flagyl
Insulin gtt
Zofran 
D5NS +40mEQ K at 250cc/hr
25G dextrose 
 
On arrival to the MICU, patient is tearful, complaining of pain 
in her R leg.  Patient states she has been compliant with her 
insulin regimen since last discharge on ___.  She denies 
fevers, chills, cough, chest pain, SOB, nausea/vomiting, 
diarrhea, dysuria, headache.   
 
Past Medical History:
- Type 1 Diabetes Mellitus  
- GERD  
- Gastroparesis  
- Pyloric stenosis as infant  
- Hypothyroidism  
- Necrobiosis Lipoidica Diabeticorum 

 
Social History:
___
Family History:
- no first degree relatives with T1DM or autoimmune disease 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: 98.4 88 112/68 100% RA
GENERAL: NAD, tearful, holding her head in her hand, eyes closed 

HEENT: PERRL no scleral icterus, no conjunctival pallor, MMM
NECK: supple
LUNGS: CTABL
CV: RRR -m/r/g
ABD: soft nt nd normoactive BS
EXT: B/l ulcerations of the shin R>L; R leg ulceration 
surrounded by erythema, no purulent drainage; B/L shins warm 
surrounding ulcerations
SKIN: no other rashes or lesions 2+DP b/l  
NEURO: AAOX3, no focal defects noted, moving all extremities 
spontaneously 
ACCESS: PIV

DISCHARGE PHYSICAL EXAM
=======================
Vitals:  98.2, 95/60, 80, 18, 100% on RA
General: alert, oriented, lying in bed no acute distress,
yelling/screaming/crying during this encounter
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales,
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present,
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: BLE with dressings c/d/I, no appreciable pitting edema of
BLE  
Neuro: AOx3, no focal deficits, moving all extremities
spontaneously
Derm: deferred given new dressing changes
Psych: angry and tearful

 
Pertinent Results:
ADMISSION LABS
=====================
___ 10:45AM BLOOD WBC-8.4# RBC-3.41* Hgb-12.2 Hct-37.2 
MCV-109* MCH-35.8* MCHC-32.8 RDW-13.2 RDWSD-53.1* Plt ___
___ 10:45AM BLOOD Neuts-72.7* Lymphs-17.6* Monos-8.6 
Eos-0.0* Baso-0.7 Im ___ AbsNeut-6.10 AbsLymp-1.48 
AbsMono-0.72 AbsEos-0.00* AbsBaso-0.06
___ 10:45AM BLOOD Glucose-343* UreaN-14 Creat-1.1 Na-131* 
K-5.5* Cl-98 HCO3-12* AnGap-27*
___ 12:35AM BLOOD Calcium-7.2* Phos-2.4* Mg-1.5*
___ 08:00AM BLOOD ALT-17 AST-21 CK(CPK)-48 AlkPhos-89 
TotBili-0.2
___ 11:43AM BLOOD ASA-NEG Acetmnp-7* Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 12:13PM BLOOD ___ pO2-58* pCO2-25* pH-7.22* 
calTCO2-11* Base XS--15
___ 12:41AM BLOOD Lactate-3.1*
___ 12:13PM BLOOD O2 Sat-84

MICROBIOLOGY
======================
___ Blood Culture: negative

___ Wound Culture: R shin
                          **FINAL REPORT ___

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 
         This isolate is presumed to be resistant to clindamycin 
based on
         the detection of inducible resistance . 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------       R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

IMAGING/STUDIES
=====================
Admission EKG: sinus tachycardia 117, normal axis, QTc 481, no 
ST changes 

___ MRI R Calf: Wet read --> There is skin thickening and 
irregularity and subcutaneous edema along the upper calf most 
prominent anteromedially (03:14) compatible with clinical 
concern of cellulitis. The underlying osseous structures appear 
normal. Bone marrow signal is normal without bone marrow edema. 
There is no evidence of osteomyelitis. Muscle signal and bulk in 
bilateral calves is normal. 

DISCHARGE LABS
==============
___ 06:19AM BLOOD WBC-4.8 RBC-3.16* Hgb-11.3 Hct-33.0* 
MCV-104* MCH-35.8* MCHC-34.2 RDW-13.2 RDWSD-50.6* Plt ___
___ 04:53AM BLOOD Neuts-43.8 ___ Monos-5.2 Eos-2.0 
Baso-0.3 Im ___ AbsNeut-1.53* AbsLymp-1.69 AbsMono-0.18* 
AbsEos-0.07 AbsBaso-0.01
___ 06:19AM BLOOD Glucose-335* UreaN-8 Creat-0.8 Na-136 
K-4.3 Cl-100 HCO3-24 AnGap-16
___ 06:19AM BLOOD Calcium-8.7 Phos-4.5 Mg-1.___ with PMH of DM1 w/ numerous ___ admissions (most recently 
___, necrobiosis lipoidica diabeticorum, and 
hypothyroidism, who presented from ___ to the FICU 
with DKA. 

#DKA: Resolved.  Presented with elevated anion gap, ketones in 
the urine, and elevated blood glucose. She was subsequently 
started on an insulin drip and transitioned to SC insulin once 
AG closed x 2 and tolerating PO.   Pt was stable for discharge 
from the ICU on ___ to the floors.  ___ was consulted during 
this admssion and recommended the following discharge insulin 
regimen: Lantus 10u qam, 12u qhs.

___: Creatinine was 1.1 on admission (baseline was 0.6), which 
resolved after rehydration. 

# Necrobiosis lipoidica diabeticorum
# BLE pain
# RLE cellulitis: ___ necrobiosis lipoidica diabeticorum 
superinfection.  Ulcer cx growing staph res to clinda.  Of note, 
pt is s/p 10 day course of clinda (ended ___ for superinfection 
of ulcerations.  MRI ___ + cellulitis.  She was initially 
placed on nafcillin and was transitioned to Bactrim to complete 
a total 10 day course (last day on ___.  Her reported pain 
seemed very much out of proportion to her exam and inconsistent 
with her demonstrated behaviors (seen by nursing being able to 
ambulate in her room and to bathroom without difficulty, 
inconsistent reactions during daily dressing changes).  Per her 
medical team, Dermatology, and nursing, there was concern that 
her disproportional pain to her clinical exam was potentially 
exacerbated by her underlying personality disorder/factitious 
disorder and behavioral problems.  We were concerned that her 
pain may be related to progression of her NLD.  The patient had 
previously declined all treatments (all outpatient) offered by 
Dermatology during this admission for specific treatment for her 
NLD, but she was finally amenable to try topical tacrolimus (not 
available in inpatient formulary, but patient was provided a 
prescription at discharge). Of note, because of her significant 
history of medical noncompliance, behavioral issues, and recent 
infection, dermatology would be hesitant to start any systemic 
immune-modulating treatments at this time.  Patient to follow-up 
with outpatient dermatologist, Dr. ___, at ___ 
___ (appointment on ___.  She was continued on her home 
dose pentoxifylline.

Of note, although the patient endorsed severe pain and reported 
that she was unable to ambulate, she had reported to nursing 
staff and had been observed to be ambulating in her room and to 
and from her bathroom without difficulty.  She endorsed safety 
concerns at home regarding her fall risk and initially declined 
our offer of ___ evaluation.  ___ did evaluate the patient and 
cleared her to go home; the patient declined any assistive 
device.  

#Elevated Lactate: Pt had an elevated lactate during admission 
which downtrended prior to discharge from the ICU.  No signs or 
symptoms of hypoperfusion.  The etiology of her elevated lactate 
was felt to be due to hypovolemia and DKA.  

#Gastroparesis: The patient has a history of gastroparesis 
secondary to T1DM. Initially, her home erythromycin was held on 
admission to ICU as drug interaction was noted with clindamycin 
(decreased effectiveness of both agents).  However, erythromycin 
was restarted on ___.

#GERD: The patient continued on oral PPI during admission.

# Communication: per chart, Mother ___ ___ 
# Code: Full

***TRANSITIONAL ISSUES***
- Patient to finish Bactrim course on ___ 
- Wound care recs: OK to continue Adaptic, ABD pad and Kerlix 
- New insulin regimen per ___: Lantus 10u qam, 12u qhs
- Recommended initiation of topical tacrolimus daily if 
tolerated
- Patient was evaluated by ___ but declined any treatments or 
assistive devices

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Erythromycin 250 mg PO Q8H 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Omeprazole 40 mg PO BID 
4. Pentoxifylline 800 mg PO TID with meals 
5. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
6. Naproxen 500 mg PO Q12H:PRN Pain - Moderate 
7. Glargine 10 Units Breakfast
Glargine 10 Units Bedtime

 
Discharge Medications:
1.  Gabapentin 800 mg PO TID 
RX *gabapentin 800 mg 1 tablet(s) by mouth three times a day 
Disp #*21 Tablet Refills:*0 
2.  Sulfameth/Trimethoprim DS 1 TAB PO BID 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth twice a day Disp #*7 Tablet Refills:*0 
3.  Tacrolimus 0.03 % TOPICAL DAILY 
RX *tacrolimus 0.03 % apply to wounds daily Refills:*0 
4.  TraMADol 50 mg PO Q6H:PRN Pain - Moderate 
Do not take while operating machinery or with alcohol. 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*28 Tablet Refills:*0 
5.  Glargine 10 Units Breakfast
Glargine 12 Units Bedtime 
6.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
7.  Erythromycin 250 mg PO Q8H  
8.  Levothyroxine Sodium 50 mcg PO DAILY  
9.  Naproxen 500 mg PO Q12H:PRN Pain - Moderate  
10.  Omeprazole 40 mg PO BID  
11.  Pentoxifylline 800 mg PO TID with meals  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
diabetic ketoacidosis
necrobiosis lipoidica diabeticorum
cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the ___ 
for diabetic ketoacidosis and infection of your right leg 
wounds.  You were treated with insulin infusion and your blood 
sugar control improved.  You were evaluated by the ___ 
___ who titrated your home insulin regimen.  For your 
infection, you will be discharged to complete a course of oral 
antibiotics.

For your skin wounds, you had an MRI which showed inflammation 
associated with your ulcers.  You were evaluated by Dermatology 
who provided you numerous options to help treat your necrobiosis 
lipoidica diabeticorum.  Because of your acute infection, it is 
not ideal/safe to start you on some of these systemic 
immune-modulating medications.  You can try a topical medication 
called topical tacrolimus in the meantime.  These treatments are 
done in an outpatient basis and Dr. ___ will see you for 
follow-up.

Please follow-up with your outpatient providers as instructed 
below.

Thank you for allowing us to participate in your care.  All best 
wishes for your recovery.

Sincerely,
Your ___ medical team
 
Followup Instructions:
___